US06544978B2
Synthesis of N-(2-Naphthyl)alanine iso-Butyl Ester
Following General Procedure AA above and using 2-aminonaphthalene (Aldrich) and iso-butyl pyruvate. (prepared by following General Procedure AO above), the title compound was prepared as an oil. Purification was by preparative plate chromatography (silica gel using 25% EtOAc/hexanes as the eluant).

reactant | 2-aminonaphthalene | NC1=CC2=CC=CC=C2C=C1 | C10H9N
reactant | iso-butyl pyruvate | C(C(=O)C)(=O)OCC(C)C | C7H12O3
product | N-(2-Naphthyl)alanine iso-Butyl Ester | C(C(C)C)OC([C@@H](NC1=CC2=CC=CC=C2C=C1)C)=O | C17H21NO2
